US07888352B2
To 2-chloro-4-morpholin-4-yl-6-piperazin-1-ylmethyl-thieno[2,3-d]pyrimidine (187 mg) in anhydrous DCM (5 ml) and triethylamine (111 ul) was added cyclopropanesulfonyl chloride (65 ul) at 0° C. The reaction mixture was allowed to warm up to room temperature over 4 hours. Aqueous work-up and purification on silica gave 2-chloro-4-morpholin-4-yl-6-[4-(cyclopropane-2-sulfonyl)-piperazin-1-ylmethyl]-thieno[2,3-d]pyrimidine (159 mg).

reactant | 2-chloro-4-morpholin-4-yl-6-piperazin-1-ylmethyl-thieno[2,3-d]pyrimidine | 187 mg | ClC=1N=C(C2=C(N1)SC(=C2)CN2CCNCC2)N2CCOCC2 | C15H20ClN5OS
reactant | cyclopropanesulfonyl chloride | 65 ul | C1(CC1)S(=O)(=O)Cl | C3H5ClO2S
solvent | DCM | 5 ml | C(Cl)Cl | CH2Cl2
solvent | triethylamine | 111 ul | C(C)N(CC)CC | C6H15N
product | 2-chloro-4-morpholin-4-yl-6-[4-(cyclopropane-2-sulfonyl)-piperazin-1-ylmethyl]-thieno[2,3-d]pyrimidine | 159 mg | ClC=1N=C(C2=C(N1)SC(=C2)CN2CCN(CC2)S(=O)(=O)C2CC2)N2CCOCC2 | C18H24ClN5O3S2
